US06656971B2
1-(3-hydroxy-5-aminobenzoyl)-2-benzoylhydrazine.
A mixture of 1-{3-[(2-naphthyl)methoxy]-5-nitrobenzoyl}-2-benzoylhydrazine (0.34 g, 0.77 mmol), Pd/C (10%, 0.35 g), EtOH (10 mL), and DMF (10 mL) was hydrogenated in Parr apparatus (H2 pressure—30 psi) at room temperature for 1.5 h. Catalyst was filtered off, and filtrate concentrated in vacuo to give a slurry of white needles, which were filtered and washed with EtOH (3×25 mL). Yield 0.20 g (96%). 1H NMR (DMSO-d6, 400 MHz), δ: 10.37 (s, 1H); 10.12 (s, 1H); 9.20 (s, 1H); 7.91 (d, J=7.0 Hz, 2H); 7.62-7.48 (m, 3H); 6.54 (s, 1H); 5.46 (s, 1H); 6.19 (s, 1H); 5.18 (br.s, 2H).

reactant | 1-{3-[(2-naphthyl)methoxy]-5-nitrobenzoyl}-2-benzoylhydrazine | 0.77 mmol, 0.34 g | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NNC(C2=CC=CC=C2)=O)C=C(C1)[N+](=O)[O-] | C25H19N3O5
reactant | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 0.35 g | [Pd] | Pd
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-hydroxy-5-aminobenzoyl)-2-benzoylhydrazine | OC=1C=C(C(=O)NNC(C2=CC=CC=C2)=O)C=C(C1)N | C14H13N3O3
